US08735414B2
Into a solution of 1-cyclobutyl-5-fluoro-6-methyl-1H-indole-3-carbonitrile (1.2 g, 5.3 mmol) and triisopropyl borate (2.18 mL, 9.47 mmol) in THF (20 mL) at −78° C. was added LDA (1.5 M in cyclohexane, 4.6 mL, 6.84 mmol). The mixture was stirred at −78° C. for 30 min and quenched with ice water (60 mL) and stirred for 15 min without cooling. The mixture was extracted with ethyl acetate 1:1 in hexane (20 mL). The aqueous layer was acidified with 2 N aq. HCl to pH 5 and then extracted with CH2Cl2 (60 mL). The organic layer was dried over Na2SO4 and concentrated to give 3-cyano-1-cyclobutyl-5-fluoro-6-methyl-1H-indol-2-ylboronic acid as a solid (1.44 g, 98% pure by LCMS) that was used in the next step without further purification.

reactant | 1-cyclobutyl-5-fluoro-6-methyl-1H-indole-3-carbonitrile | 5.3 mmol, 1.2 g | C1(CCC1)N1C=C(C2=CC(=C(C=C12)C)F)C#N | C14H13FN2
reactant | triisopropyl borate | 9.47 mmol, 2.18 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | LDA | 6.84 mmol, 1.5 M, 4.6 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-cyano-1-cyclobutyl-5-fluoro-6-methyl-1H-indol-2-ylboronic acid | C(#N)C1=C(N(C2=CC(=C(C=C12)F)C)C1CCC1)B(O)O | C14H14BFN2O2
